US08314109B2
0.9 mL of aqueous 2 M lithium hydroxide solution is added to a solution of 292 mg of ethyl 6-(6-{bis[(1,1-dimethylethoxy)carbonyl]amino}pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate in 4.73 mL of a 50/1 mixture of tetrahydrofuran and methanol. The reaction mixture is stirred for 7 hours at 25° C. and then treated dropwise at 0° C. with 2 N hydrochloric acid HCl until a pH of 3 is obtained. The precipitate formed after 20 minutes is filtered off by suction and washed with water (20 mL) and diethyl ether (20 ml) and then dried under reduced pressure to give 195 mg of 6-(6-{[(1,1-dimethylethoxy)carbonyl]amino}pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylic acid in the form of a beige-coloured solid.

reactant | lithium hydroxide | 2 M | [OH-].[Li+]
reactant | ethyl 6-(6-{bis[(1,1-dimethylethoxy)carbonyl]amino}pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate | 292 mg | CC(C)(OC(=O)N(C1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)C(=O)OC(C)(C)C)C | C25H30N4O6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid HCl | 2 N | Cl.Cl | 2ClH
solvent | methanol | CO | CH4O
product | 6-(6-{[(1,1-dimethylethoxy)carbonyl]amino}pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylic acid | 195 mg | CC(C)(OC(=O)NC1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)O)C | C18H18N4O4
